US08877779B2
To a mixture of 1,2,2a,3,4,5-hexahydroacenaphthylen-1-ylamine, potassium carbonate (3.89 g) and ethanol (60 ml) was added 1-ethyl-1-methyl-4-oxopiperidinium iodide (8.36 g) dissolved in water (15 ml), and the mixture was heated under reflux for 2 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give 1-(1,2,2a,3,4,5-hexahydroacenaphthylen-1-yl)piperidin-4-one (1.01 g, 14%) as an oil.

reactant | 1,2,2a,3,4,5-hexahydroacenaphthylen-1-ylamine | C1(CC2CCCC3=CC=CC1=C23)N | C12H15N
reactant | potassium carbonate | 3.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | 1-ethyl-1-methyl-4-oxopiperidinium iodide | 8.36 g | [I-].C(C)[N+]1(CCC(CC1)=O)C
solvent | water | 15 ml | O | H2O
product | 1-(1,2,2a,3,4,5-hexahydroacenaphthylen-1-yl)piperidin-4-one | 1.01 g, 14% | C1(CC2CCCC3=CC=CC1=C23)N2CCC(CC2)=O | C17H21NO
